US05238599
A solution of 34 g (0.19 mol) of trans-4-butylcyclohexyl acetonitrile, 43 g (0.76 mol) of KOH, and 34 cm3 of water in 190 cm3 of ethanol was refluxed over a hot water bath until the generation of ammonia gas ceased (about 10 hours). Ammonia gas was detected using phenolphthalein test paper. The reaction solution was cooled to room temperature and ethanol was distilled off. The residue was dissolved in 100 cm3 of water. The resulting solution was poured into a beaker containing 100 g of water and 100 cm3 of concentrated hydrochloric acid. The crystals precipitated in the beaker were separated out by filtration and washed with water. The crystals were recrystallized from a solvent mixture of methanol and water to yield 37 g (0.19 mol) of trans-4-butylcyclohexyl acetic acid.

reactant | trans-4-butylcyclohexyl acetonitrile | 0.19 mol, 34 g | C(CCC)[C@@H]1CC[C@H](CC1)CC#N | C12H21N
reactant | KOH | 0.76 mol, 43 g | [OH-].[K+]
reactant | ammonia | N | H3N
reactant | phenolphthalein | C=1C=CC2=C(C1)C(=O)OC2(C=3C=CC(=CC3)O)C=4C=CC(=CC4)O | C20H14O4
solvent | ethanol | 190 cm3 | C(C)O | C2H6O
solvent | water | 34 cm3 | O | H2O
product | trans-4-butylcyclohexyl acetic acid | 0.19 mol, 37 g | C(CCC)[C@@H]1CC[C@H](CC1)CC(=O)O | C12H22O2
